US06150533
3-{2-[3-(1H-Indol-3-yl)-propylamino]-ethoxy}-benzene-1,2-diamine
To a solution of the 2-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-6-nitro-phenylamine (1.9 g, 5.39 mmol) in ethanol (40 ml) was added 5% palladium on carbon (0.5 g) under nitrogen. The resulting slurry was hydrogenated under 40 psi for 4 hours. The catalyst was removed by filtration and the ethanol evaporated to afford the crude product. Purification by chromatography (3-10% 2N ammonia methanol in methylene chloride) gave 1.57 g (90.6%) of product as a brown oil. 1H NMR (400 MHZ, DMSO-d6), δ1.79, (2H, q, J=7.2 Hz); 2.62, (2H, t, J=7.1 Hz); 2.71, (2H, t, J=7.2 Hz); 2.83, (2H, t, J=5.2 Hz); 4.09, (2H, br); 4.43, (2H, br); 6.19, (1H, t, J=8.0 Hz); 6.33, (1H, t, J=7.9 Hz); 6.94; (1H, t, J=7.0 Hz); 7.03, (1H, t, J=7.2 Hz); 7.08, (1H, d, J=2.0 Hz); 7.29, (2H, d, J=7.4 Hz); 7.31, (2H, d, J=7.4 Hz); 10.7, (1H, br).

reactant | 2-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-6-nitro-phenylamine | 5.39 mmol, 1.9 g | N1C=C(C2=CC=CC=C12)CCCNCCOC1=C(C(=CC=C1)[N+](=O)[O-])N | C19H22N4O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-{2-[3-(1H-Indol-3-yl)-propylamino]-ethoxy}-benzene-1,2-diamine | 1.57 g, 90.6% | N1C=C(C2=CC=CC=C12)CCCNCCOC1=C(C(=CC=C1)N)N | C19H24N4O
